US07645753B2
3-Amino-5-hydroxy-4-iodo-benzoic acid methyl ester
To a solution of 3-amino-5-hydroxy-4-iodo-benzoic acid (0.20 g, 0.72 mmol, 1.0 equiv) in methanol (5 mL) was added conc. sulfuric acid (0.20 mL, 0.035 g, 0.36 mmol, 0.5 equiv) and the reaction mixture heated to reflux. After 2 h, the reaction mixture was poured on ice, the pH adjusted to 9 by addition of a sat. solution of sodium hydrogencarbonate and extracted with ethyl acetate (2×50 mL). The combined organic phases were dried over MgSO4, concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with hexane/ethyl acetate (1:1) providing 0.07 g (33%) of the title compound. 1H NMR (250 MHz, DMSO): δ 3.78 (s, 3H), 5.45 (br s, 2H), 6.68 (s, 1H), 6.85 (s, 1H), 10.32 (br s, 1H). MS (EI): 293.0 [M]+.

reactant | 3-amino-5-hydroxy-4-iodo-benzoic acid | 0.72 mmol, 0.20 g, 1.0 equiv | NC=1C=C(C(=O)O)C=C(C1I)O | C7H6INO3
reactant | sulfuric acid | 0.36 mmol, 0.20 mL, 0.035 g, 0.5 equiv | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 3-Amino-5-hydroxy-4-iodo-benzoic acid methyl ester | 0.07 g, 33% | COC(C1=CC(=C(C(=C1)O)I)N)=O | C8H8INO3
